US07285663B2
3,3′-Bis(3-methyl-5-oxo-1-(3-carboxyphenyl)-1,5-dihydropyrazol-4-ylidene)-[1,1′]biisoindolylidene
10.0 g of [1,1′]biisoindolylidene-3,3′-diimine and 25.3 g of 3-methyl-1-(3-carboxyphenyl)-2-pyrazolin-5-one are stirred in a mixture of 160 ml of NMP and 40 ml of glacial acetic acid at reflux for 5 hours. After cooling to room temperature the suspension is filtered and the filter product is washed with ethanol and then water and dried at 60° C. This gives 21.7 g (85%) of a brownish black powder of a compound of the following formula

reactant | [1,1′]biisoindolylidene-3,3′-diimine | 10.0 g | C1(NC(C2=CC=CC=C12)=N)=C1NC(C2=CC=CC=C12)=N | C16H12N4
reactant | 3-methyl-1-(3-carboxyphenyl)-2-pyrazolin-5-one | 25.3 g | CC1=NN(C(C1)=O)C1=CC(=CC=C1)C(=O)O | C11H10N2O3
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | NMP | 160 ml | CN1CCCC1=O | C5H9NO
product | 3,3′-Bis(3-methyl-5-oxo-1-(3-carboxyphenyl)-1,5-dihydropyrazol-4-ylidene)-[1,1′]biisoindolylidene | CC1=NN(C(C1=C1NC(C2=CC=CC=C12)=C1NC(C2=CC=CC=C12)=C1C(=NN(C1=O)C1=CC(=CC=C1)C(=O)O)C)=O)C1=CC(=CC=C1)C(=O)O | C38H26N6O6
